US07037905B2
2-(3,5-Dichlorophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
The title compound (73%, oil) was prepared from 3,5-dichlorophenylboronic acid and pinacol.

reactant | 3,5-dichlorophenylboronic acid | ClC=1C=C(C=C(C1)Cl)B(O)O | C6H5BCl2O2
reactant | pinacol | OC(C)(C)C(C)(C)O | C6H14O2
product | 2-(3,5-Dichlorophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 73% | ClC=1C=C(C=C(C1)Cl)B1OC(C(O1)(C)C)(C)C | C12H15BCl2O2
